US05401772
3,5-Dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene (2.0 g) and 200 mg. of 10% platinum on carbon in 100 ml. of ethanol are hydrogenated on a Parr shaker. Catalyst is then removed by filtration through Celite and the filtrate is stripped to afford 3,5-dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-aniline. To this is added 30 g of dimethyl oxalate and this is stirred at 120° for 4 hours. Excess oxalate is removed under high vacuum from a hot water bath and the residue is chromatographed on silica gel with 9:1 toluene:ethyl acetate affording methyl N-[3,5-dichloro-4-(4'-methoxy-3'-isopropylphenoxy)-phenyl]oxamate; NMR(CDCl3): δ1.2 (6H, d), 3.3 (1H,m), 3.8 (3H, s), 4.0 (3H,s), 6.5 (1H,d of d), 6.7 (1H,d), 6.8 (1H,d), 7.7 (2H,s).

reactant | 3,5-Dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene | 2.0 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)[N+](=O)[O-] | C16H15Cl2NO4
catalyst | platinum on carbon | [Pt] | Pt
solvent | ethanol | C(C)O | C2H6O
product | 3,5-dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-aniline | ClC=1C=C(N)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl | C16H17Cl2NO2
